US07348438B2
5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(4-trifluoromethylsulfanyl-benzyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (434 mg) in DMF (5 mL) was added potassium carbonate powder (669 mg) and 4-(trifluoromethylthio) benzyl bromide (596 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a brown solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 434 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 669 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(trifluoromethylthio) benzyl bromide | 596 mg | FC(SC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(4-trifluoromethylsulfanyl-benzyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC=C(C=C2)SC(F)(F)F)C=C1Cl | C17H10Cl2F6N2S
